US07973178B2
4-(Azetidin-1-ylcarbonyl)phenol
1,1-Carbonyldiimidazole (95.57 mmol; 16.57 g) was charged to a 250 mL round bottomed flask purged with nitrogen, acetonitrile (72 mL) was added, to form a mobile white slurry. 4-Hydroxybenzoic acid (86.88 mol; 12.00 g) was added in portions over 30 minutes to give clear yellow solution, which then became a slurry after approximately 15 minutes. The slurry was heated to 50° C. and azetidine (104.25 mol; 5.95 g) in acetonitrile (10 mL) was added drop wise over 10 minutes. Further azetidine (17.38 mmol; 992.08 mg) was added in acetonitrile (12 mL) and the reaction mixture was heated to 50° C. for a further hour. The precipitated product (10 g, 65% yield) was isolated by filtration and washed with acetonitrile (15 mL) and then dried in a vacuum oven at 40° C.

reactant | 4-Hydroxybenzoic acid | 86.88 mol, 12.00 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | azetidine | 104.25 mol, 5.95 g | N1CCC1 | C3H7N
reactant | azetidine | 17.38 mmol, 992.08 mg | N1CCC1 | C3H7N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 4-(Azetidin-1-ylcarbonyl)phenol | 10 g, 65% yield | N1(CCC1)C(=O)C1=CC=C(C=C1)O | C10H11NO2
